US04372953
Mercaptobenzene (1.3 g) and 5-(3-bromopropyl)thio-1,2,3,4-tetrazole (1.8 g) are dissolved in acetone (50 ml), and thereto is added potassium carbonate (1.4 g), and the mixture is refluxed for 2 hours. After acetone is distilled off, water is added to the residue, and the mixture is extracted with chloroform. The chloroform layer is washed with 5% aqueous sodium hydroxide and saturated aqueous sodium chloride and dried over magnesium sulfate. After chloroform is distilled off, the residue is purified by column chromatography (Wakogel C-200, eluting agent, chloroform) to give 5-(3-phenylthiopropyl)thio-1,2,3,4-tetrazole (1.5 g) as colorless liquid.

reactant | Mercaptobenzene | 1.3 g | SC1=CC=CC=C1 | C6H6S
reactant | 5-(3-bromopropyl)thio-1,2,3,4-tetrazole | 1.8 g | BrCCCSC1=NN=NN1 | C4H7BrN4S
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 5-(3-phenylthiopropyl)thio-1,2,3,4-tetrazole | 1.5 g | C1(=CC=CC=C1)SCCCSC1=NN=NN1 | C10H12N4S2
